Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins / tetracycline / erythromycin base
 
Attending: ___.
 
Chief Complaint:
traumatic SAH s/p fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ with history of Afib/Aflutter on Xarelto
who presents as transfer from OSH for ___ s/p fall.

Patient reports he got out of bed to toilet and tripped over
cabinet and fell struck the back of his head. No LOC. He reports
consuming alcohol earlier in the evening prior to presentation.
He was taken to OSH where ___ revealed a tSAH. He was reversed
with factor Xa and Andexxa prior to transfer to ___ for 
further
evaluation. 
 
Past Medical History:
Prostate CA s/p radiation 
Left ocular melanoma s/p radiation   
Afib/Aflutter
HTN                                           

 
Social History:
___
Family History:
NC
 
Physical Exam:
On Admission
===========================
GCS upon Neurosurgery Evaluation: 15  Time of evaluation: 05:30

Airway: [ ]Intubated   [xNot intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [x]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:

Gen: WD/WN, comfortable, NAD.
HEENT: Posterior scalp laceration
Neck: Supple
Extrem: warm and well perfused

Neuro:

Mental Status: Awake, alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.

Language: Speech is fluent with good comprehension. 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to 3mm-2mm
bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

On Discharge
============================
___ 0745 Temp: 98.4 PO BP: 155/93 HR: 61 RR: 18 O2 sat: 98%
O2 delivery: Ra 

Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils: PERRL 4-2mm bilaterally 
EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No
Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
___

IPQuadHamATEHLGast
___

[x]Sensation intact to light touch

Wound: 
[x]Clean, dry, intact 
[x]Staples for occipital scalp laceration

 
Pertinent Results:
Please see ___
 
Brief Hospital Course:
Mr. ___ is a ___ yo M with Afib on Xarelto s/p fall who 
originally presented to ___ and was found to have a tSAH 
on ___ and was transferred to ___ for further management. He 
was reversed with factor Xa and Andexxa prior to transfer. Upon 
arrival patient was admitted to the floor and started on Keppra. 
He had a repeat NCHCT on ___ which was stable compared to 
prior scan. Patient remained on the floor and continued to do 
well. He was mobilizing well independently. Neurologically he 
remained stable and intact.

At the time of discharge patient was tolerating a regular diet, 
ambulating without difficulty, afebrile with stable vital signs. 
He understands to hold Xarelto for 7 days in the setting of 
intracranial hemorrhage.

 
Medications on Admission:
Fenofibrate 145mg PO QAM
Flecainide 100mg PO Q12H
Metoprolol succinate 25mg PO Qam
Olmesartan-HCTZ 40-25 MG TAB PO Qam
Omeprazole 20mg Qam, Rivaroxaban 20mg QPM
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever 
Do not use more than 3000mg of Acetaminophen daily. Do not take 
Acetaminophen when drinking alcohol.  
2.  Docusate Sodium 100 mg PO BID  
3.  Senna 17.2 mg PO HS  
4.  Rivaroxaban 20 mg PO DAILY 
Do not restart until ___  
5.  Fenofibrate 145 mg PO DAILY  
6.  Flecainide Acetate 100 mg PO Q12H  
7.  Hydrochlorothiazide 25 mg PO DAILY  
8.  Metoprolol Succinate XL 25 mg PO DAILY  
9.  olmesartan 40 mg oral DAILY  
10.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Traumatic SAH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Traumatic Brain Injury

- Do not restarted Xarelto for 7 days. You may resume Xarelto on 
___.

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•You make take a shower 3 days after surgery. 
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin, Xarelto) until cleared by the 
neurosurgeon. 
•You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
•***You have been prescribed Dilantin (Phenytoin) for 
anti-seizure medicine, take it as prescribed and follow up with 
laboratory blood drawing in one week.  This can be drawn at your 
PCP’s office, but please have the results faxed to ___.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
Headaches:
•Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:
•You were given information about headaches after TBI and the 
impact that TBI can have on your family.
•If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___